US07741327B2
A solution of (S)-2-(benzhydrylidene-amino)-4-methyl-hexanoic acid (5.09 g, 15.1 mmol) in tetrahydrofuran (100 mL) was treated with a 2N aqueous hydrochloric acid solution (50 mL) and stirred at room temperature for 1.5 hr. The mixture was concentrated in vacuo and the residue partitioned between methyl t-butyl ether and water. The layers were separated and the aqueous phase was washed with methyl t-butyl ether. The organic phases were discarded and the aqueous phase neutralized with a 1N aqueous sodium hydroxide solution (150 mL) and extracted with methyl t-butyl ether. The combined organic layers were washed with brine and dried over anhydrous sodium sulfate. The mixture was concentrated in vacuo and the residue was dissolved in diethyl ether (20 mL). The diethyl ether solution was treated with 3M hydrogen chloride in diethyl ether (10 mL) and the mixture concentrated in vacuo. The residue was triturated with diethyl ether and hexanes which afforded (S)-2-amino-4-methyl-hexanoic acid ethyl ester hydrochloride (2.30 g, 73%) as a white solid.

reactant | (S)-2-(benzhydrylidene-amino)-4-methyl-hexanoic acid | 15.1 mmol, 5.09 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N[C@H](C(=O)O)CC(CC)C | C20H23NO2
reactant | hydrochloric acid | 2N, 50 mL | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (S)-2-amino-4-methyl-hexanoic acid ethyl ester hydrochloride | 2.30 g, 73% | Cl.C(C)OC([C@H](CC(CC)C)N)=O | InChI=1S/C9H19NO2.ClH/c1-4-7(3)6-8(10)9(11)12-5-2;/h7-8H,4-6,10H2,1-3H3;1H/t7?,8-;/m0./s1
